US04874775
N-cyclohexyl-N-(pyridin-3-ylmethyl)-chloromethanesulfonamide
A 2.85 g. portion of 3-(cyclohexylaminomethyl)pyridine was dissolved in 20 ml. of dichloromethane, and 2.7 g. of potassium carbonate was added, followed by 3.5 g. of chloromethanesulfonyl chloride. The mixture was stirred at ambient temperature for 2 days, another 2 g. of chloromethanesulfonyl chloride was added, and the mixture was stirred for 3 days more. It was then diluted with 20 ml. of water, and the organic phase was separated, dried over magnesium sulfate and evaporated to an oil. The oil was dissolved in dichloromethane and chromatographed over silica gel, eluting with 9:1 dichloromethane:ethyl acetate. The product-containing fractions were combined and evaporated to obtain 1.4 g. of product, initially an oil, which crystallized spontaneously. M.P. 67°-72°.

reactant | 3-(cyclohexylaminomethyl)pyridine | C1(CCCCC1)NCC=1C=NC=CC1 | C12H18N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethanesulfonyl chloride | ClCS(=O)(=O)Cl | CH2Cl2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclohexyl-N-(pyridin-3-ylmethyl)-chloromethanesulfonamide | C1(CCCCC1)N(S(=O)(=O)CCl)CC=1C=NC=CC1 | C13H19ClN2O2S
